US06833462B2
A 500 ml flask was flushed with nitrogen to displace the air with nitrogen, and was charged with 36.0 g (0.50 mol) of acrylic acid, 0.5 g (5 mmol) of sulfuric acid and 100 g of toluene. Separately 88.8 g (0.60 mol) of 2-methyleneadamantane, prepared by the same procedures as described in Reference Example 1, was dissolved in 100 g of toluene. The obtained solution of 2-methyleneadamantane in toluene was dropwise added to the content in the flask over a period of about 3 hours, while the content was maintained at a reaction temperature of about 20° C. Then the content was stirred for 5 hours at the same temperature. After completion of the reaction, the residual catalyst was neutralized by adding 40.0 g (50 mmol) of a 5% aqueous sodium hydroxide solution, and the neutralized liquid was washed with an aqueous saturated sodium chloride solution. The thus-obtained organic phase was subjected to column chromatography, and further, analyzed by NMR and mass spectrometry. Thus, 100.7 g (yield: 91.5%) of the object 2-methyl-2-adamantyl acrylate was obtained.

reactant | acrylic acid | 0.50 mol, 36.0 g | C(C=C)(=O)O | C3H4O2
reactant | sulfuric acid | 5 mmol, 0.5 g | S(O)(O)(=O)=O | H2O4S
reactant | 2-methyleneadamantane | 0.60 mol, 88.8 g | C=C1C2CC3CC(CC1C3)C2 | C11H16
reactant | sodium hydroxide | [OH-].[Na+]
solvent | toluene | 100 g | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 100 g | C1(=CC=CC=C1)C | C7H8
product | 2-methyl-2-adamantyl acrylate | yield: 91.5% | C(C=C)(=O)OC1(C2CC3CC(CC1C3)C2)C | C14H20O2
